US04000275
6-Methyl-3-trifluoromethylbenzimidazo[2,1-b]quinazolin-12(6H)one is prepared with 3-trifluoromethylbenzimidazo[2,1-b]-quinazolin-12(6H)one and methyl iodide.

reactant | 3-trifluoromethylbenzimidazo[2,1-b]-quinazolin-12(6H)one | FC(C1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O)(F)F | C15H8F3N3O
reactant | methyl iodide | CI | CH3I
product | 6-Methyl-3-trifluoromethylbenzimidazo[2,1-b]quinazolin-12(6H)one | CN1C2=C(C=CC=C2)N2C1=NC1=CC(=CC=C1C2=O)C(F)(F)F | C16H10F3N3O
